US08278442B2
Preparation 14: 5-[(3-Methylbutylamino)methyl]naphthalen-1-ol
To a solution of 5-methoxynaphthalene-1-ylmethyl(3-methylbutyl)amine (Preparation 13) (310 mg, 1.20 mmol) in DCM (15 mL) at −78° C., was added 1M BBr3 in DCM (3.61 mL, 3.61 mmol.). The reaction mixture was stirred at −78° C. for 16 h. NaHCO3 (0.5 mL) was added and the mixture partitioned between NaHCO3 (0.25 mmol) and EtOAc (50 mL). The aqueous phase was extracted with EtOAc (2×50 mL) and the combine organic phases washed with 1M NaOH (20 mL). The aqueous phase was acidified with 1M HCl to pH 7 and extracted with EtOAc (100 mL). The organic phase was washed with brine (25 mL) and dried (MgSO4). Solvent was removed in vacuo to give the title compound: RT=2.49 min; m/z (ES+)=244.1 [M+H]+.

reactant | 5-methoxynaphthalene-1-ylmethyl(3-methylbutyl)amine | 1.20 mmol, 310 mg | COC1=C2C=CC=C(C2=CC=C1)CNCCC(C)C | C17H23NO
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 0.5 mL | C(=O)(O)[O-].[Na+]
reactant | NaHCO3 | 0.25 mmol | C(=O)(O)[O-].[Na+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3.61 mmol, 3.61 mL | C(Cl)Cl | CH2Cl2
product | 5-[(3-Methylbutylamino)methyl]naphthalen-1-ol | CC(CCNCC1=C2C=CC=C(C2=CC=C1)O)C | C16H21NO
